US03998958
The fluoroborate salt of 1-benzyl-2-iminopyrrolidine (6.55 g.; 0.025 mole) is converted to free base (4.36 g.; 0.025 mole) in the usual manner. After drying over K2CO3, the benzene solution is filtered through diatomaceous earth and 3.68 g. (0.025 mole) of 2,6-dimethylphenylisocyanate is added. The reaction mixture is stirred at room temperature for 1 hour and then evaporated to dryness in vacuo to give an oily residue of 1-(1-benzyl-2-pyrrolidylidene)-3-(2,6-dimethylphenyl)urea which is dissolved in ether and converted to the hydrochloride salt. Recrystallizations from methanol yields the product, 1-(1-benzyl-2-pyrrolidylidene)-3-(2,6-dimethylphenyl)urea HCl, m.p. = 185°-195° C. (dec.)

reactant | fluoroborate | F[B-](F)(F)F
reactant | 1-benzyl-2-iminopyrrolidine | 0.025 mole, 6.55 g | C(C1=CC=CC=C1)N1C(CCC1)=N | C11H14N2
reactant | 2,6-dimethylphenylisocyanate | 0.025 mole | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
product | 1-(1-benzyl-2-pyrrolidylidene)-3-(2,6-dimethylphenyl)urea | C(C1=CC=CC=C1)N1C(CCC1)=NC(=O)NC1=C(C=CC=C1C)C | C20H23N3O
